US08703805B2
Preparation of 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]cyclopropanecarbonitrile
1,2-dibromoethane (40 μL, 0.46 mmol) was added to a stirred suspension of the [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile (68 mg, 0.15 mmol), benzyltriethylammonium chloride (20 mg, 0.088 mmol), and 50% aqueous NaOH (2 mL) at 0° C., the resulting mixture was stirred at rt overnight. After diluted with water, the mixture was extracted with ether. The combined extracts were washed with brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified by flash chromatography (0-70% EtOAc/hexanes) to give the title compound as a white solid (59 mg, 82%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.84-7.82 (m, 1H), 7.74-7.71 (m, 1H), 7.58-7.43 (m, 5H), 7.21 (d, 1H), 6.79-6.77 (m, 2H), 3.07 9d, 3H), 1.73-1.68 (m, 4H). MS(ES): 480 [M+H]+.

reactant | 1,2-dibromoethane | 0.46 mmol, 40 μL | BrCCBr | C2H4Br2
reactant | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile | 0.15 mmol, 68 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC#N | C22H16ClN3O2S2
reactant | NaOH | 2 mL | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.088 mmol, 20 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]cyclopropanecarbonitrile | 59 mg, 82% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1(CC1)C#N | C24H18ClN3O2S2
